* I2C Bus Signal Integrity — Open-Drain Driver Model
*
* Models actual I2C bus behavior:
* - NMOS open-drain driver (master pulling SDA low)
* - External pull-up resistor to VCC
* - Bus capacitance from traces + slave devices
*
* I2C Standard Mode spec (100kHz):
*   Rise time (tr): max 1000ns
*   Fall time (tf): max 300ns
*   VOL: max 0.4V at 3mA sink
*   VIH: min 0.7 * VCC = 2.31V (at 3.3V)
*
* I2C Fast Mode spec (400kHz):
*   Rise time (tr): 20ns - 300ns
*   Fall time (tf): max 300ns

.title I2C Bus Signal Integrity

* 3.3V supply
VCC vcc 0 DC 3.3

* Pull-up resistor (4.7k — standard value for 3.3V I2C)
Rp vcc sda 4.7k

* Bus capacitance: 200pF (typical for 4-5 devices + 20cm traces)
Cbus sda 0 200p

* Open-drain NMOS driver (master device)
* Gate driven by control signal, drain is SDA, source is GND
M1 sda gate 0 0 NMOD W=100u L=0.5u
.model NMOD NMOS (VTO=0.7 KP=200u GAMMA=0.4 LAMBDA=0.04 CBD=5p CBS=5p)

* Gate control: pull low for 5us, release for 5us (100kHz I2C clock)
Vgate gate 0 PULSE(3.3 0 0 10n 10n 5u 10u)

.tran 5n 25u

.control
  run

  * === Rise Time Measurement ===
  * I2C spec: 10% to 90% of VCC
  let v_10pct = 0.1 * 3.3
  let v_90pct = 0.9 * 3.3

  * Set defaults in case meas fails
  let tr_10 = -1
  let tr_90 = -1
  meas tran tr_10 when v(sda)=$&v_10pct rise=1
  meas tran tr_90 when v(sda)=$&v_90pct rise=1

  let rise_time = -1
  if $&tr_10 > 0
    if $&tr_90 > 0
      let rise_time = tr_90 - tr_10
    end
  end

  * === Fall Time Measurement ===
  let tf_90 = -1
  let tf_10 = -1
  meas tran tf_90 when v(sda)=$&v_90pct fall=1
  meas tran tf_10 when v(sda)=$&v_10pct fall=1

  let fall_time = -1
  if $&tf_90 > 0
    if $&tf_10 > 0
      let fall_time = tf_10 - tf_90
    end
  end

  * === VOL Measurement ===
  * Measure minimum voltage when NMOS is ON (first 4us)
  let vol_min = -1
  meas tran vol_min min v(sda) from=1u to=4u

  * === Steady-state high voltage ===
  let voh = -1
  meas tran voh max v(sda) from=6u to=9u

  * === Report ===
  echo "========================================="
  echo "  I2C Bus Signal Integrity Report"
  echo "========================================="
  echo "Pull-up: 4.7k to 3.3V"
  echo "Bus capacitance: 200pF"
  echo ""
  echo "Rise time (10%-90%): $&rise_time s"
  echo "Fall time (90%-10%): $&fall_time s"
  echo "VOL (driven low):   $&vol_min V"
  echo "VOH (released high): $&voh V"

  * === Write results ===
  echo "RESULT:rise_time_ns=$&rise_time" > simulation_results.txt
  echo "RESULT:fall_time_ns=$&fall_time" >> simulation_results.txt
  echo "RESULT:vol=$&vol_min" >> simulation_results.txt
  echo "RESULT:voh=$&voh" >> simulation_results.txt

  * === Spec compliance checks ===
  let pass = 1

  * Check 1: Rise time measured successfully
  if $&rise_time < 0
    echo "FAIL: Could not measure rise time"
    let pass = 0
  end

  * Check 2: Rise time < 1us (Standard Mode)
  if $&rise_time > 1e-6
    echo "FAIL: Rise time exceeds Standard Mode spec (1us)"
    let pass = 0
  end

  * Check 3: Fall time < 300ns
  if $&fall_time > 300e-9
    echo "FAIL: Fall time exceeds spec (300ns)"
    let pass = 0
  end

  * Check 4: VOL < 0.4V
  if $&vol_min > 0.4
    echo "FAIL: VOL exceeds 0.4V threshold"
    let pass = 0
  end

  * Check 5: VOH reaches VIH (0.7 * VCC = 2.31V)
  if $&voh < 2.31
    echo "FAIL: VOH does not reach VIH threshold (2.31V)"
    let pass = 0
  end

  if $&pass > 0
    echo "PASS: I2C bus meets Standard Mode specifications"
    echo "STATUS:PASS" >> simulation_results.txt
  else
    echo "STATUS:FAIL" >> simulation_results.txt
  end

  quit
.endc

.end
